US09328111B2
To a solution of tert-butyl 3-oxo-7,8,10,11-tetrahydro-2H-phthalazino[8,1-bc][1,7]naphthyridine-9(3H)-carboxylate (100 mg) in dioxane (6 mL) was added con.HCl (2.0 mL) dropwise, the mixture was then stirred at room temperature for 0.5 h. The solvent was evaporated in vacuo and water (10 mL) was added. The mixture was washed with methylene dichloride (20 mL), and the aqueous phase was evaporated to afford 8,9,10,11-tetrahydro-2H-phthalazino[8,1-bc][1,7]naphthyridin-3(7H)-one hydrochloride (46 mg, 57%). 1H NMR (DMSO-d6) δ 11.9 (s, 1H), 10.95 (s, 1H), 9.59 (s, 1H), 7.34-7.69 (m, 3H), 3.33-3.51 (m, 4H), 2.55-2.56 (m, 2H). MS (ESI) m/e [M+1]+241.0.

reactant | tert-butyl 3-oxo-7,8,10,11-tetrahydro-2H-phthalazino[8,1-bc][1,7]naphthyridine-9(3H)-carboxylate | 100 mg | O=C1NN=C2C3=C(NC=4CN(CCC24)C(=O)OC(C)(C)C)C=CC=C13 | C18H20N4O3
reactant | HCl | 2.0 mL | Cl | ClH
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 8,9,10,11-tetrahydro-2H-phthalazino[8,1-bc][1,7]naphthyridin-3(7H)-one hydrochloride | 46 mg, 57% | Cl.N=1NC(C2=CC=CC=3NC=4CNCCC4C1C32)=O | InChI=1S/C13H12N4O.ClH/c18-13-8-2-1-3-9-11(8)12(16-17-13)7-4-5-14-6-10(7)15-9;/h1-3,14-15H,4-6H2,(H,17,18);1H
